US04415572
6-[4-(4-Nitrobenzoyl)-1-piperazinyl]-3,4-dihydrocarbostyril (400 mg) was added to 20 ml of methanol and reduced at room temperature at atmospheric pressure using 50 mg of 10% palladium-carbon as a catalyst. After completion of absorption of hydrogen gas the catalyst was removed by filtration. The filtrate was subjected to distillation under reduced pressure and the residue was purified through silica gel column chromatography. Recrystallization from ethanol gave 210 mg of 6-[4-(4-aminobenzoyl)-1-piperazinyl]-3,4-dihydrocarbostyril, m.p. 244°-246° C., pale yellow needles.

reactant | 6-[4-(4-Nitrobenzoyl)-1-piperazinyl]-3,4-dihydrocarbostyril | 400 mg | [N+](=O)([O-])C1=CC=C(C(=O)N2CCN(CC2)C=2C=C3CCC(NC3=CC2)=O)C=C1 | C20H20N4O4
catalyst | palladium-carbon | 50 mg | [C].[Pd]
solvent | methanol | 20 ml | CO | CH4O
product | 6-[4-(4-aminobenzoyl)-1-piperazinyl]-3,4-dihydrocarbostyril | 210 mg | NC1=CC=C(C(=O)N2CCN(CC2)C=2C=C3CCC(NC3=CC2)=O)C=C1 | C20H22N4O2
